US06090833
6-Chloro-2-(2,4-dichlorophenyl)-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide
This compound is prepared analogously to the process described in Example 1c using 2-bromo-5-chloroindan-1-one and 2,4-dichlorothiobenzamide; melting point: 220-230° C. (dec.).

reactant | 2-bromo-5-chloroindan-1-one | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
reactant | 2,4-dichlorothiobenzamide | ClC1=C(C(=S)N)C=CC(=C1)Cl | C7H5Cl2NS
product | 6-Chloro-2-(2,4-dichlorophenyl)-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide | Br.ClC1=CC=2CC3C(N=C(S3)C3=C(C=C(C=C3)Cl)Cl)(C2C=C1)O | InChI=1S/C16H10Cl3NOS.BrH/c17-9-2-4-12-8(5-9)6-14-16(12,21)20-15(22-14)11-3-1-10(18)7-13(11)19;/h1-5,7,14,21H,6H2;1H
